US07910592B2
4-(4-Methoxyphenyl)cyclohexanone (400 mg, 1.958 mmol) was dissolved in MeOH (20 mL) and cooled to 0° C. NaBH4 (222 mg, 5.87 mmol) was added, and the reaction was stirred at 0° C. for 30 min. The reaction was then quenched with 5 mL of water, stirred for 5 min, and then diluted with EtOAc (50 mL). The organic layer was washed with water (3×50 mL) and brine (50 mL), dried (Na2SO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel (0 to 70% EtOAc/hexanes) to afford trans-4-(4-methoxyphenyl)cyclohexanol. 1H NMR (500 MHz, CDCl3): δ 7.12 (d, J=8.5 Hz, 2H), 6.84 (d, J=8.7 Hz, 2H), 3.79 (s, 3H), 3.68 (m, 1H), 2.46 (m, 1H), 2.07-2.12 (m, 2H), 1.86-1.94 (m, 3H), 1.38-1.54 (m, 4H).

reactant | 4-(4-Methoxyphenyl)cyclohexanone | 1.958 mmol, 400 mg | COC1=CC=C(C=C1)C1CCC(CC1)=O | C13H16O2
reactant | NaBH4 | 5.87 mmol, 222 mg | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | trans-4-(4-methoxyphenyl)cyclohexanol | COC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C13H18O2
